US06040309
3-[2-(Methylsulfonylamino)phenyl]sulfanyl-6-(3-pyridylmethoxy)benzo[b]thiophene-2-carboxylic Acid
Sodium hydroxide (1 ml of 1M in water) was added to a solution of ethyl 3-[2-(N,N-dimethylsulfonylamino)phenyl]sulfanyl-6-(3-pyridylmethoxy)benzo[b]thiophene-2-carboxylate (Example 16--185 mg, 0.31 mmol) in methanol (5 ml), and the solution was heated at reflux for 40 minutes. The hot solution was acidified by dropwise addition of acetic acid, diluted with water (5 ml), and cooled. The solid precipitate was isolated by filtration and dried under vacuo to give the title compound as a colourless solid (102 mg).

reactant | Sodium hydroxide | 1M, 1 ml | [OH-].[Na+]
reactant | ethyl 3-[2-(N,N-dimethylsulfonylamino)phenyl]sulfanyl-6-(3-pyridylmethoxy)benzo[b]thiophene-2-carboxylate | 0.31 mmol, 16--185 mg | CS(=O)(=O)N(S(=O)(=O)C)C1=C(C=CC=C1)SC=1C2=C(SC1C(=O)OCC)C=C(C=C2)OCC=2C=NC=CC2 | C25H24N2O7S4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 3-[2-(Methylsulfonylamino)phenyl]sulfanyl-6-(3-pyridylmethoxy)benzo[b]thiophene-2-carboxylic Acid | 102 mg | CS(=O)(=O)NC1=C(C=CC=C1)SC=1C2=C(SC1C(=O)O)C=C(C=C2)OCC=2C=NC=CC2 | C22H18N2O5S3
